US05538986
Dissolved diisopropylamine (9.2 g, 0.0910 mol) in 200 mL of dry THF. Cooled to 0° C. under a nitrogen atmosphere. Added 2.5M n-butyl lithium in hexane (35.2 mL, 0.0880 mol) via syringe. Stirred at 0° C. for 10 mins then cooled to -78° C. Added diethyl [(2-tetrahydropyranyloxy)methyl]phosphonate in 45 mL of dry THF via addition funnel. Stirred at -78° C. for 1 hour. Added 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-carboxaldehyde in 100 mL of dry THF via addition funnel. Warmed to room temperature then refluxed for 16 hours. Cooled to room temperature, and added 500 mL of saturated NH4Cl. Separated layers, and extracted aqueous solution with ether. Washed combined organic extracts with saturated NaHCO3, dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 3% ether-hexane then 5% ether-hexane. Combined appropriate fractions and evaporated to give 12.7 g (46% yield) of 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl-(2-tetrahydropyranyloxy-ethene).

reactant | diisopropylamine | 0.0910 mol, 9.2 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.5M | C(CCC)[Li]
reactant | hexane | 0.0880 mol, 35.2 mL | CCCCCC | C6H14
reactant | diethyl [(2-tetrahydropyranyloxy)methyl]phosphonate | O1C(CCCC1)OCP(OCC)(OCC)=O | C10H21O5P
reactant | 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-carboxaldehyde | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C=O | C19H18O
reactant | NH4Cl | 500 mL | [NH4+].[Cl-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl-(2-tetrahydropyranyloxy-ethene) | 12.7 g, 46% yield | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C=COC2OCCCC2 | C25H28O2
